US07863283B2
(RS)-S-[4-({[6-Methoxy-4-(3-pyridylamino)quinazolin-7-yl]oxy}methyl)phenyl]-S-methylsulphoximide
According to GWP 6, the conversion of (RS)-N-(ethoxycarbonyl)-S-methyl-S-[4-({[6-methoxy-4-(3-pyridylamino)quinazolin-7-yl]oxy}methyl)phenyl]sulphoximide (33 mg, 0.064 mmol) and chromatographic purification (silica gel, dichloromethane/methanol: 0→30% methanol) gives the desired product in 61% yield (17 mg).

reactant | (RS)-N-(ethoxycarbonyl)-S-methyl-S-[4-({[6-methoxy-4-(3-pyridylamino)quinazolin-7-yl]oxy}methyl)phenyl]sulphoximide | 0.064 mmol, 33 mg | C(C)OC(=O)N=S(=O)(C1=CC=C(C=C1)COC1=C(C=C2C(=NC=NC2=C1)NC=1C=NC=CC1)OC)C | C25H25N5O5S
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | (RS)-S-[4-({[6-Methoxy-4-(3-pyridylamino)quinazolin-7-yl]oxy}methyl)phenyl]-S-methylsulphoximide | 61% yield | COC=1C=C2C(=NC=NC2=CC1OCC1=CC=C(C=C1)S(=O)(=N)C)NC=1C=NC=CC1 | C22H21N5O3S
